US03985740
7-amino-3-(4-methylthiazol-2-yl)carbonylthiomethyl-3-cephem-4-carboxylic acid
To a stirred solution of 5.4 g. (0.02 mole) of 7-aminocephalosporanic acid and 3.36 g. (0.04 mole) of sodium bicarbonate in 120 ml. of aqueous phosphate buffer (pH 6.4) was added 3.1 g. (0.02 mole) of 4-methylthiazole-2-thiolcarboxylic acid. The mixture was stirred in a nitrogen atmosphere and heated to 50°. The pH was adjusted from 7.0 to 6.5 with 42% phosphoric acid. A crystalline solid started to precipitate. After 5 hours at 50° the reaction mixture was cooled to 20°. The precipitated solid was collected by filtration, washed with water and acetone and dried in vacuo over phosphorous pentoxide 3.75 g. of crystalline yellow solid. Yield = 50.5% NMR spectrum was consistent with the structure of the title product.

reactant | 7-aminocephalosporanic acid | 0.02 mole | CC(=O)OCC1=C(N2[C@@H]([C@@H](C2=O)N)SC1)C(=O)O | C10H12N2O5S
reactant | sodium bicarbonate | 0.04 mole | C([O-])(O)=O.[Na+]
reactant | phosphate | pH 6.4 | P(=O)([O-])([O-])[O-]
reactant | 4-methylthiazole 2-thiolcarboxylic acid | 0.02 mole | CC=1N=CSC1.S1C(=CC=C1)C(=O)O
reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
product | 7-amino-3-(4-methylthiazol-2-yl)carbonylthiomethyl-3-cephem-4-carboxylic acid | Yield = 50.5% | NC1[C@@H]2N(C(=C(CS2)CSC(=O)C=2SC=C(N2)C)C(=O)O)C1=O | C13H13N3O4S3
